US08633175B2
Step 2: methyl 2-methyl-2,3-dihydro-1H-indene-2-carboxylate
A mixture of the methyl 2-methyl-1-oxo-2,3-dihydro-1H-indene-2-carboxylate (2.04 g, 9.99 mmol) and 10% Pd/C (0.200 g; wet) in HOAc/conc H2SO4 (22/2 mL respectively) was hydrogenated under 50 psi H2 for 4 h using a Parr hydrogenation apparatus. The mixture was filtered through Celite (2×MeOH wash) and the filtrate was partially concentrated in vacuo. The residue was neutralized with satd Na2CO3 and the whole was extracted with EtOAc (2×25 mL). Combined organics were washed with brine, dried over Na2SO4 and concentrated in vacuo affording the title compound. 1H NMR (400 MHz, CDCl3) δ ppm 1.35 (s, 3H), 2.81 (d, J=15.6 Hz, 2H), 3.47 (d, J=15.6 Hz, 2H), 3.71 (s, 3H), 7.12-7.23 (m, 4H).

reactant | methyl 2-methyl-1-oxo-2,3-dihydro-1H-indene-2-carboxylate | 9.99 mmol, 2.04 g | CC1(C(C2=CC=CC=C2C1)=O)C(=O)OC | C12H12O3
solvent | HOAc | CC(=O)O | C2H4O2
catalyst | Pd/C | 0.200 g | [Pd] | Pd
product | methyl 2-methyl-2,3-dihydro-1H-indene-2-carboxylate | CC1(CC2=CC=CC=C2C1)C(=O)OC | C12H14O2
